US08217177B2
6-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)difluoromethyl)quinoline
A suspension of 2,2-difluoro-2-(quinolin-6-yl)acetohydrazide (2000 mg, 8432 μmol) and 3,6-dichloropyridazine (3768 mg, 25295 μmol) in 1.25 M HCl in MeOH (20 mL) was heated to 90° C. with microwaves for 50 min. The solvents were then removed under reduced pressure and residue partitioned between 9:1 CHCl3/IPA (60 mL) and 1 M NaOH (20 mL). The organic phase then dried over MgSO4, concentrated, then purified on silica (120 g) eluting with 1>2.5% of 2 M NH3 in MeOH/DCM to provide product isolated as a dark tan soild. MS (ESI pos. ion) m/z: 332 (MH+). Calc'd exact mass for C15H8ClF2N5: 331.

reactant | 2,2-difluoro-2-(quinolin-6-yl)acetohydrazide | 8432 μmol, 2000 mg | FC(C(=O)NN)(C=1C=C2C=CC=NC2=CC1)F | C11H9F2N3O
reactant | 3,6-dichloropyridazine | 25295 μmol, 3768 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | HCl | 1.25 M | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 6-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)difluoromethyl)quinoline | ClC=1C=CC=2N(N1)C(=NN2)C(C=2C=C1C=CC=NC1=CC2)(F)F | C15H8ClF2N5
